US09079866B2
4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-N-[(3S)-2-oxopyrrolidin-3-yl]biphenyl-2-sulfonamide
The title compound was prepared using methods analogous to those described in Example 376 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine and (S)-2-bromo-N-(2-oxopyrrolidin-3-yl)benzene-sulfonamide. MS (ESI): mass calcd. for C20H18FN5O3S, 427.11; m/z found, 428.1 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.51 (dd, J=2.2, 1.3, 2H), 8.18 (dd, J=7.9, 1.3, 1H), 7.67-7.60 (m, 1H), 7.58-7.51 (m, 1H), 7.45-7.31 (m, 4H), 6.05 (d, J=9.3, 1H), 5.51 (dd, J=9.8, 3.3, 1H), 5.35 (d, J=3.1, 2H), 3.67-3.55 (m, 1H), 3.39-3.19 (m, 2H), 2.65-2.50 (m, 1H), 2.16-1.99 (m, 1H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)pyrimidin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1C=NC(=NC1)N | C16H19BFN3O2
reactant | (S)-2-bromo-N-(2-oxopyrrolidin-3-yl)benzene-sulfonamide | BrC1=C(C=CC=C1)S(=O)(=O)N[C@@H]1C(NCC1)=O | C10H11BrN2O3S
product | 4′-(2-Aminopyrimidin-5-yl)-3′-fluoro-N-[(3S)-2-oxopyrrolidin-3-yl]biphenyl-2-sulfonamide | NC1=NC=C(C=N1)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)N[C@@H]1C(NCC1)=O)F | C20H18FN5O3S
